US06992187B2
2a) Ethyl (2S)-3-(6-chloro-5-nitropyrimidin-4-ylamino)-2-(naphthalene-1-sulfonylamino)propionate
2.96 g (29.3 mmol) of triethylamine were added dropwise at −10° C. in the course of 5 minutes to 5.0 g (13.9 mmol) of ethyl (2S)-2-(naphthalene-1-sulfonylamino)-3-aminopropionate (EP 1070707 (EP 99114372.8)) and 2.84 g (14.6 mmol) of 4,6-dichloro-5-nitropyrimidine, dissolved in 140 ml of abs. THF. The mixture was stirred at −5° C. for 15 minutes and then at room temperature for 12 h. The reaction mixture was taken up in EA and extracted with a saturated aqueous NaCl solution, the organic phase was dried over MgSO4 and filtered, and the solvent was distilled off in vacuo. For purification, the residue was chromatographed over silica gel (EA/heptane 3:7). Yield: 6.38 g.

reactant | triethylamine | 29.3 mmol, 2.96 g | C(C)N(CC)CC | C6H15N
reactant | ethyl (2S)-2-(naphthalene-1-sulfonylamino)-3-aminopropionate | 13.9 mmol | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N[C@H](C(=O)OCC)CN | C15H18N2O4S
reactant | 4,6-dichloro-5-nitropyrimidine | 14.6 mmol, 2.84 g | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | THF | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | Ethyl (2S)-3-(6-chloro-5-nitropyrimidin-4-ylamino)-2-(naphthalene-1-sulfonylamino)propionate | ClC1=C(C(=NC=N1)NC[C@@H](C(=O)OCC)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)[N+](=O)[O-] | C19H18ClN5O6S
